US05106871
In 200 ml of anhydrous tetrahydrofuran were dissolved 30 g of 2',4',6'-trihydroxyacetophenone and 115.0 g of N,N-diisopropylethylamine, and 50.2 g of chloromethyl methyl ether was gradually added to the solution under ice cooling over a period of 20 minutes and the reaction mixture was stirred under ice cooling for 1 hour and at room temperature for 4 hours to effect reaction. After the reaction, the reaction mixture was extracted with 3 l of ether, and the ether layer was washed with water (500 ml×3 times), shaken with a saturated aqueous solution of sodium chloride (300 ml×2 times), dried with anhydrous sodium sulfate, and filtered. The solvent was removed from the filtrate by distillation and the obtained residue was recrystallized from a mixed solvent of methanol and water to obtain 18.9 g (yield=41.4%) of 2'-hydroxy-4',6'-bis(methoxyacetophenone in the form of a colorless prism.

reactant | 2',4',6'-trihydroxyacetophenone | 30 g | OC1=C(C(=CC(=C1)O)O)C(C)=O | C8H8O4
reactant | N,N-diisopropylethylamine | 115.0 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 50.2 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | methoxyacetophenone | COCC(=O)C1=CC=CC=C1 | C9H10O2
